US07981886B2
{trans-4-[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-cyclohexyl}-(5-methoxy-benzothiazol-2-yl)-methanone
Using 5-methoxy-benzothiazole (5 mmol; Tetrahedron (1997), 53, 17029), [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester (2.5 mmol) and 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde (0.3 mmol) according to the same protocol as that described for example 1, steps 1.a to 1.c, the title compound was obtained as a yellowish solid (92 mg).

reactant | 5-methoxy-benzothiazole | 5 mmol | COC=1C=CC2=C(N=CS2)C1 | C8H7NOS
reactant | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid tert-butyl ester | 2.5 mmol | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C14H26N2O4
reactant | 2,3-dihydro-benzo[1,4]dioxine-6-carbaldehyde | 0.3 mmol | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
product | {trans-4-[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-cyclohexyl}-(5-methoxy-benzothiazol-2-yl)-methanone | O1CCOC2=C1C=CC(=C2)CN[C@@H]2CC[C@H](CC2)C(=O)C=2SC1=C(N2)C=C(C=C1)OC | C24H26N2O4S
